US05239083
4-{2-[3-(1-heptylindol-5yl)isocrotonoylamino]phenoxy}butyric acid (Compound 8)
217 mg of compound 8 was obtained in a similar manner to those described in the Examples 1 and 2 using 701 mg of ethyl 4-(2-aminophenoxy)butyrate and 470 mg of 3-(1-heptylindol-5 -yl)isocrotonic acid obtained according to the procedures described in the Reference Examples 1-4.

reactant | ethyl 4-(2-aminophenoxy)butyrate | 701 mg | NC1=C(OCCCC(=O)OCC)C=CC=C1 | C12H17NO3
reactant | 3-(1-heptylindol-5 -yl)isocrotonic acid | 470 mg | C(CCCCCC)N1C=CC2=CC(=CC=C12)/C(=C/C(=O)O)/C | C19H25NO2
product | 4-{2-[3-(1-heptylindol-5yl)isocrotonoylamino]phenoxy}butyric acid | C(CCCCCC)N1C=CC2=CC(=CC=C12)/C(=C/C(=O)NC1=C(OCCCC(=O)O)C=CC=C1)/C | C29H36N2O4
